US05767129
2-(4,4-Diphenylbutyl)-1,2,3,4-tetrahydroisoquinolin-5-ol
To a solution of 2-(4,4-diphenylbutyl)-5-hydroxyisoquinolinium bromide (2.29 g, 5.27 mmol) in 100 mL of methanol was added 20% Pd/C catalyst (0.7 g). The reaction mixture was shaken under 50 psi of hydrogen at room temperature for 18 hours. The catalyst was then removed by filtration through a pad of Celite. The residue was washed with methanol, and the filtrate was concentrated under vacuum. The white solid obtained was neutralized with saturated sodium bicarbonate solution. The mixture was extracted with ethyl acetate (2×200 mL). The organic extracts were collected and dried with magnesium sulphate, filtered and concentrated to give 1.9 g of crude product as a yellow oil.

reactant | 2-(4,4-diphenylbutyl)-5-hydroxyisoquinolinium bromide | 5.27 mmol, 2.29 g | [Br-].C1(=CC=CC=C1)C(CCC[N+]1=CC2=CC=CC(=C2C=C1)O)C1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 0.7 g | [Pd] | Pd
product | 2-(4,4-Diphenylbutyl)-1,2,3,4-tetrahydroisoquinolin-5-ol | 1.9 g | C1(=CC=CC=C1)C(CCCN1CC=2C=CC=C(C2CC1)O)C1=CC=CC=C1 | C25H27NO
